US07645755B2
d) 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid ethyl ester
A 12-L, four-neck, round-bottom flask equipped with a mechanical stirrer, a temperature probe, and an addition funnel with a nitrogen inlet was charged with 2-bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carbonitrile [390 g, 1.29 mol, as prepared in the previous step) and anhydrous tetrahydrofuran (4.0 L). Agitation was initiated and the reaction mixture was cooled to −50° C. using a dry ice/acetone bath. Isopropylmagnesium chloride (2.0 M in THF, 760 mL, 1.52 mol) was added through the addition funnel over 30 min to maintain the internal temperature below −40° C. The reaction was stirred for a further 30 min at −43° C., after which time it was cooled to −78° C. Ethyl chloroformate (210 mL, 2.20 mol) was added through the addition funnel over 10 min to maintain the internal temperature below −60° C. The reaction was stirred for a further 40 min at −70° C., at which point the dry ice/acetone bath was removed and the reaction was allowed to warm to ambient temperature over 1.5 h. The reaction mixture was cooled in an ice bath to 0° C. and quenched by the slow addition of satd ammonium chloride solution (1.8 L) at such a rate that the internal temperature was maintained below 10° C. The reaction mixture was transferred into a 12-L separatory funnel, diluted with ethyl acetate (4.0 L), and the layers were separated. The organic layer was washed with brine (2×2.0 L) and concentrated under reduced pressure at 35° C. to give a brown oil. The crude oil was dissolved in dichloromethane (300 mL) and purified by chromatography (15×22 cm, 1.5 kg of silica gel, 10:1 to 4:1 heptane/ethyl acetate) to give a yellow oil, which was dissolved in EtOAc (100 mL), diluted with heptane (2.0 L), and stored in a refrigerator for 5 h. The resulting slurry was filtered to give the title compound as a crystalline white solid (141 g, 37%). The 1H and 13C NMR spectra were consistent with the assigned structure.

reactant | 2-bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carbonitrile | BrC=1N(C=C(N1)C#N)COCC[Si](C)(C)C | C10H16BrN3OSi
reactant | Isopropylmagnesium chloride | 1.52 mol, 2.0 M, 760 mL | C(C)(C)[Mg]Cl
reactant | Ethyl chloroformate | 2.20 mol, 210 mL | ClC(=O)OCC | C3H5ClO2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | heptane | 2.0 L | CCCCCCC | C7H16
solvent | tetrahydrofuran | 4.0 L | O1CCCC1 | C4H8O
product | 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid ethyl ester | 141 g, 37% | C(C)OC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C | C13H21N3O3Si
